US06777427B2
Production of 2-[2-(tert-butyldiphenylsilanoxy)-1,1-dimethylethyl]-4-ethoxy-6-nitro-1,2,3,4-tetrahydroquinoline
4-Nitroaniline (200 mg), 0.15 ml of ethyl vinyl ether, and 0.1 ml of trifluoroacetic acid were dissolved in 5 ml of acetonitrile, and 500 mg of 3-(tert-butyldiphenylsilanoxy)-2,2-dimethylpropionaldehyde was added at 0° C. After 6 hours of stirring at room temperature, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent; hexane:ethyl acetate=10:1-8:1) to obtain 34 mg of the title compound. Its physical properties are shown below.

reactant | 4-Nitroaniline | 200 mg | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | ethyl vinyl ether | 0.15 ml | C(=C)OCC | C4H8O
reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(tert-butyldiphenylsilanoxy)-2,2-dimethylpropionaldehyde | 500 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(C=O)(C)C | C21H28O2Si
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-[2-(tert-butyldiphenylsilanoxy)-1,1-dimethylethyl]-4-ethoxy-6-nitro-1,2,3,4-tetrahydroquinoline | 34 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(C)(C)C1NC2=CC=C(C=C2C(C1)OCC)[N+](=O)[O-] | C31H40N2O4Si
